US06376664B1
A solution of ceric ammonium nitrate (2.19 g, 4.0 mmol) in acetic acid (10 mL, 50%) was added to a stirred solution of N-methyl-4-methyl-2-(2-nitrophenyl)-benzimidazole (0.27 g, 1.0 mmol) in same acid (5.0 mL, 50%) dropwise at 90° C. and the mixture was stirred for 6 hours. The mixture was then cooled to room temperature, neutralized with saturated NaHCO3 to PH=7-8,extracted with CHCl3 and the extract dried over Na2SO4. Concentration using a rotary evaporator and subsequent column chromatography on silica gel using hexane/ethyl acetate (1:3) as the eluent to give N-methyl-2-(2-nitrophenyl)-benzimidazole-4-benzaldehyde (115 mg, 42%) as a light-yellow solid. Rf=0.28 (hexane/ethyl acetate=1:3); 1H NMR (250 MHz, CDCl3) δ 3.68 (s, 3H), 7.47 (t, J=7.8 Hz, 1H), 7.66-7.74 (m, 2H), 7.77-7.86 (m, 2H), 7.90 (d, J=7.6 Hz, 1H), 8.28 (dd, J,=7.9 Hz, J2 =1.5 Hz, 1H), 10.81 (s, 1H). HRMS: Calcd for C15H11N3O3 281.0800, found 281.0814.

reactant | N-methyl-4-methyl-2-(2-nitrophenyl)-benzimidazole | 1.0 mmol, 0.27 g | CN1C(=NC2=C1C=CC=C2C)C2=C(C=CC=C2)[N+](=O)[O-] | C15H13N3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-methyl-2-(2-nitrophenyl)-benzimidazole-4-benzaldehyde | 115 mg, 42% | CN1C(=NC2=C1C=CC=C2C2=CC=CC=C2C=O)C2=C(C=CC=C2)[N+](=O)[O-] | C21H15N3O3
